US06680282B2
5 Grams of 4-hydroxy-6-s-butyl-8-bromo-2,3-dimethylquinoline synthesized in the same way as that described in Example 1 was suspended in 20 ml of dimethylformamide, to which 700 mg of 60% sodium hydride was added under cooling with ice and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added dropwise 3 g of benzyl bromide under cooling with ice and the mixture was allowed to react at room temperature overnight. After the addition of 50 ml of water, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with a saturated brine and dried over anhydrous sodium sulfate overnight. After the solvent was evaporated under reduced pressure, the resultant crude product was purified by column chromatography on silica gel (WAKOGEL® C-200) eluting with n-hexane to obtain 2.5 g of 4-benzyloxy-6-s-butyl-8-bromo-2,3-dimethylquinoline. 2.5 Grams of the thus-obtained 4-benzyloxy-6-s-butyl-8-bromo-2,3-dimethylquinoline was dissolved in 25 ml of anhydrous tetrahydrofuran and cooled to −78° C., to which 2.8 ml of a 2.5 M solution of n-butyl lithium in n-hexane was added dropwise and the mixture was stirred for 10 minutes. One ml of methyl formate dissolved in 2 ml of anhydrous tetrahydrofuran was added dropwise to the reaction mixture and the mixture was stirred at 0° C. for 30 minutes. After the addition of 50 ml of water, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated ammonium chloride solution and a saturated brine and then dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified by column chromatography on silica gel (WAKOGEL® C-200) eluting with n-hexane/ethyl acetate (20:1) to obtain 800 mg of 4-benzyloxy-6-s-butyl-8-formyl-2,3-dimethylquinoline.

reactant | 4-hydroxy-6-s-butyl-8-bromo-2,3-dimethylquinoline | OC1=C(C(=NC2=C(C=C(C=C12)C(C)CC)Br)C)C | C15H18BrNO
reactant | sodium hydride | 700 mg | [H-].[Na+]
reactant | benzyl bromide | 3 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 50 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-benzyloxy-6-s-butyl-8-bromo-2,3-dimethylquinoline | 2.5 g | C(C1=CC=CC=C1)OC1=C(C(=NC2=C(C=C(C=C12)C(C)CC)Br)C)C | C22H24BrNO
